US03959322
Dissolve dl-13-ethyl-3-methoxy-6-methylgona-2,5(10)-dien-17β-ol (5.5 g) in toluene (200 ml) containing cyclohexanone (70 ml) and treat with aluminum isopropoxide (4.0 g) in toluene (50 ml). Reflux under nitrogen for 2.5 hours, then add water (10 ml) followed by anhydrous sodium sulfate (5 g). Stir the suspension for 0.5 hour, filter, and wash the filter cake with benzene. Remove the solvents and concentrate the residue at 100° under vacuum (.02 mm). Triturate the crystalline residue with ice-cold methanol to obtain dl-13β-ethyl-6-methyl-3-methoxygona-2,5(10)-dien-17-one (3.6 g), m.p. 118°-125°; infrared absorption peaks (potassium bromide) at 5.78 μ, 5.90 μ, 6.00 μ, no selective ultraviolet absorption above 220 mμ.

reactant | 13-ethyl-3-methoxy-6-methylgona-2,5(10)-dien-17β-ol | 5.5 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1C(C2)C)OC)O | C21H32O2
reactant | cyclohexanone | 70 ml | C1(CCCCC1)=O | C6H10O
reactant | aluminum isopropoxide | 4.0 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | sodium sulfate | 5 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
product | 13β-ethyl-6-methyl-3-methoxygona-2,5(10)-dien-17-one | 3.6 g | C(C)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1C(C2)C)OC)=O | C21H30O2
